US03968231
7-Fluoro-4-(p-fluorophenyl)-2-[3-(p-fluorobenzoyl)propyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole hydrochloride ##EQU6##
7-Fluoro-4-(p-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[3,4-b]indole (6.02 g.; 22.2 m moles), 6.7 g. (33.3 m moles) of γ-chloro-p-fluorobutyrophenone, 4.28 g. (23.4 m moles) of potassium iodide and 7.05 g. (66.6 m moles) of sodium carbonate in 175 ml. of dimethylformamide is heated to 90° C. for 8 hrs. and then allowed to stir at room temperature overnight. The mixture is heated again to 90° C., treated with a gram of decolorizing charcoal, filtered and the filtrate poured into ice and water. The suspension is extracted with chloroform and the combined extracts dried and evaporated to 10.5 g. of crude product. The residue is chromatographed on 200 g. of silica gel using 3:1 diethyl ether-ethanol as the eluate, each fraction comprising 30-40 ml. The desired product, isolated from fractions 6-14, is converted to the hydrochloride salt, 1.75 g., and subsequently recrystallized from acetonitrile-methanol, 850 mg., m.p. 175°-179° C.

reactant | 7-Fluoro-4-(p-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[3,4-b]indole | 6.02 g | FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CNC3 | C16H12F2N2
reactant | γ-chloro-p-fluorobutyrophenone | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | potassium iodide | [I-].[K+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | charcoal | C | CH4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-Fluoro-4-(p-fluorophenyl)-2-[3-(p-fluorobenzoyl)propyl]-1,2,3,4-tetrahydropyrrolo[3,4-b]indole hydrochloride | Cl.FC1=CC=2C3=C(N(C2C=C1)C1=CC=C(C=C1)F)CN(C3)CCCC(C3=CC=C(C=C3)F)=O | InChI=1S/C26H21F3N2O.ClH/c27-18-5-3-17(4-6-18)26(32)2-1-13-30-15-23-22-14-20(29)9-12-24(22)31(25(23)16-30)21-10-7-19(28)8-11-21;/h3-12,14H,1-2,13,15-16H2;1H
